US04302460
A solution of 3-chloroperoxybenzoic acid (85%, 6.75 g.) in chloroform (70 ml.) was added dropwise to a stirred solution of 7-chloro-1-methyl-3-methylsulphinyl-4-quinolone (6.25 g.) in chloroform (150 ml.). The resulting solution was stirred at room temperature for 2 hours and then washed repeatedly with saturated aqueous sodium carbonate solution to remove peroxide. The resulting solution was dried over anhydrous magnesium sulphate and then evaporated. The solid residue was crystallised from ethanol using charcoal to give 7-chloro-1-methyl-3-methylsulphonyl-4-quinolone, m.p. 241°-242°.

reactant | 3-chloroperoxybenzoic acid | 6.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 7-chloro-1-methyl-3-methylsulphinyl-4-quinolone | 6.25 g | ClC1=CC=C2C(C(=CN(C2=C1)C)S(=O)C)=O | C11H10ClNO2S
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-1-methyl-3-methylsulphonyl-4-quinolone | ClC1=CC=C2C(C(=CN(C2=C1)C)S(=O)(=O)C)=O | C11H10ClNO3S
